US05686424
Using the procedure described previously, a solution of 1-(2-adamantan-1-yl-2-oxoethyl) L-proline (154 mg, 0.53 mmol, 1.0 eq), L-norleucine N-benzylamide (234 mg, 1.07 mmol, 2.0 eq) and dichloromethane (1.0 mL), was treated with triethylamine (446 uL, 3.2 mmol, 6.0 eq), and a 50% solution of 1-n-propylphosphonic acid cyclic anhydride in dichloromethane (680 uL, 1.07 mL, 2.0 eq), to provide 210 mg (80%) of L-norleucine, N-[1-(2-adamantan-1-yl-2-oxoethyl)-L-Prolyl] benzylamide as a white foam.

reactant | 1-(2-adamantan-1-yl-2-oxoethyl) L-proline | 0.53 mmol, 154 mg, 1.0 eq | C12(CC3CC(CC(C1)C3)C2)C(CN2[C@H](C(=O)O)CCC2)=O | C17H25NO3
reactant | L-norleucine N-benzylamide | 1.07 mmol, 234 mg, 2.0 eq | C(C1=CC=CC=C1)NC([C@@H](N)CCCC)=O | C13H20N2O
reactant | triethylamine | 3.2 mmol, 446 uL, 6.0 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 680 uL, 2.0 eq | ClCCl | CH2Cl2
product | L-norleucine, N-[1-(2-adamantan-1-yl-2-oxoethyl)-L-Prolyl] benzylamide | 210 mg, 80% | C12(CC3CC(CC(C1)C3)C2)C(CN2[C@H](C(=O)N(C([C@@H](N)CCCC)=O)CC3=CC=CC=C3)CCC2)=O | C30H43N3O3
